US04094900
To a well stirred mixture of 15.7 g. (0.1 mole) of 2-chlorobenzoic acid and 15.0 g. (0.1 mole) of sodium iodide in 250 ml. of 4-chlorophenol was rapidly added a solution of 16 g. (0.4 mole) of sodium hydroxide dissolved in 16 ml. of water. The reaction mixture was heated and concentrated under reduced pressure to an internal temperature of about 145° C. to remove the water and excess 4-chlorophenol. The residue was then stirred at 170° C. for about 7 hours, cooled and diluted with 250 ml. of water. The aqueous solution was extracted with ethyl acetate after acidifying with dilute hydrochloric acid. The ethyl acetate extractions were washed with water, dried and concentrated under reduced pressure. The residue was recrystallized from a benzene-hexane mixture to give pure 2-(4'-chlorophenoxy)benzoic acid, m.p. 114°-115° C.

reactant | 2-chlorobenzoic acid | 0.1 mole | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | sodium iodide | 0.1 mole | [I-].[Na+]
reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium hydroxide | 0.4 mole | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(4'-chlorophenoxy)benzoic acid | ClC1=CC=C(OC2=C(C(=O)O)C=CC=C2)C=C1 | C13H9ClO3
